US07906541B2
Stage A: Preparation of 9-[3,5-bis(trifluoromethyl)benzyl]-3-methyl[1,3]thiazolo[3,2-a]benzimidazol-9-ium chloride
198 mg of 3-methyl[1,3]thiazolo[3,2-a]benzimidazole were solubilised in acetonitrile (2 mL). Then 828 mg (3 eq) of 3,5-bis(trifluoromethyl)benzyl chloride were added and the solution stirred under reflux. After 18 h, 9-[3,5-bis(trifluoromethyl)benzyl]-3-methyl[1,3]thiazolo[3,2-a]benzimidazol-9-ium chloride was recovered as a white powder (422 mg, 89%) by filtration. Mp>268° C.; 1H NMR (300 MHz, MeOD) δ=2.95 (3H, d, J=1.3, CH3), 6.03 (2H, s, CH2), 7.30 (1H, q, J=1.3, H5), 7.70-7.83 (2H, m, Ar), 8.02-8.04 (1H, m, Ar), 8.11 (1H, brs, Ar), 8.21 (2H, brs, Ar), 8.31-8.34 (1H, m, Ar); 13C NMR (75 MHz, MeOD) δ=14.11, 50.33, 112.73, 113.72, 115.13, 124.43 (1C, sept, J=4), 124.46 (2C, q, J=272), 126.67, 128.66, 129.20, 130.92 (2C, q, J=3), 133.72 (2C, q, J=34), 135.48, 136.62, 137.71, 156.38; HRMS m/z C19H13F6N2S [M−Cl]+ calcd: 415.0698, found: 415.0698.

reactant | 3-methyl[1,3]thiazolo[3,2-a]benzimidazole | 198 mg | CC1=CSC2=NC3=C(N21)C=CC=C3 | C10H8N2S
reactant | 3,5-bis(trifluoromethyl)benzyl chloride | 828 mg, 3 eq | FC(C=1C=C(CCl)C=C(C1)C(F)(F)F)(F)F | C9H5ClF6
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 9-[3,5-bis(trifluoromethyl)benzyl]-3-methyl[1,3]thiazolo[3,2-a]benzimidazol-9-ium chloride | [Cl-].FC(C=1C=C(C[N+]2=C3N(C4=C2C=CC=C4)C(=CS3)C)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C19H13F6N2S.ClH/c1-11-10-28-17-26(15-4-2-3-5-16(15)27(11)17)9-12-6-13(18(20,21)22)8-14(7-12)19(23,24)25;/h2-8,10H,9H2,1H3;1H/q+1;/p-1
